US08486950B2
To a solution of benzoic acid 3-tert-butoxycarbonylaminocyclobutyl ester (100 mg, 0.34 mmol) in DCM (2 mL) was added TFA (2 mL). The reaction mixture was stirred at room temperature for 2 hrs and then concentrated under reduced pressure. The residue was partitioned between EtOAc (20 mL) and saturated aqueous sodium hydrogenocarbonate solution (20 mL). The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure to give benzoic acid 3-aminocyclobutyl ester as a colorless oil (62 mg, yield: 94%).

reactant | benzoic acid 3-tert-butoxycarbonylaminocyclobutyl ester | 0.34 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1CC(C1)OC(C1=CC=CC=C1)=O | C16H21NO4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | benzoic acid 3-aminocyclobutyl ester | 62 mg, yield: 94% | NC1CC(C1)OC(C1=CC=CC=C1)=O | C11H13NO2
